US07491728B2
Acetyl chloride (6.0 g, 76.4 mmol) was added drop-wise to methanol (10 mL) over 30 min. The temperature was kept at 20° C. by cooling the mixture in a water bath. After the addition of acetyl chloride, the solution was stirred for 2 h at room temperature. o-Hydroxybenzonitrile (4.0 g, 33.61 mmol) was added followed by toluene (20 mL). The mixture was stirred at room temperature under an argon atmosphere for 4 days. The precipitate was filtered and washed with toluene. After drying under high vacuum, 2-hydroxy-benzimidic acid methyl ester hydrochloride (2.2 g, 35%) was isolated as a white solid.

reactant | Acetyl chloride | 76.4 mmol, 6.0 g | C(C)(=O)Cl | C2H3ClO
reactant | methanol | 10 mL | CO | CH4O
reactant | o-Hydroxybenzonitrile | 33.61 mmol, 4.0 g | OC1=C(C#N)C=CC=C1 | C7H5NO
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | 2-hydroxy-benzimidic acid methyl ester hydrochloride | 2.2 g, 35% | Cl.COC(C1=C(C=CC=C1)O)=N | InChI=1S/C8H9NO2.ClH/c1-11-8(9)6-4-2-3-5-7(6)10;/h2-5,9-10H,1H3;1H
